US04324786
Preparation of 3-chloro-1-propionyl-1,2-dihydro-pyrido[2,3-e]-as-triazine
A mixture of 8.0 g (0.048 moles) of 3-chloro-1,2-dihydro-pyrido[2,3-e]-as-triazine and 60 ml of propionic anhydride is heated at 120° C. for 30 minutes under argon atmosphere. A homogeneous solution forms, and the crystals of the end-product soon start to separate. After 1 hour the crystals are filtered off. 6.8 g (64%) of the title compound are obtained; m.p.: 205°-206° C.

reactant | 3-chloro-1,2-dihydro-pyrido[2,3-e]-as-triazine | 0.048 moles, 8.0 g | ClC=1NNC2=C(N1)N=CC=C2 | C6H5ClN4
reactant | propionic anhydride | 60 ml | C(CC)(=O)OC(CC)=O | C6H10O3
product | 3-chloro-1-propionyl-1,2-dihydro-pyrido[2,3-e]-as-triazine | 6.8 g, 64% | ClC=1NN(C2=C(N1)N=CC=C2)C(CC)=O | C9H9ClN4O
